US07112610B2
(3S,5R)-3-Amino-5-methyl-nonanoic acid hydrochloride.
A mixture of (3S,5R)-3-amino-5-methyl-nonanoic acid, tert-butyl ester (1.50 g, 6.16 mmol) in 3N HCl (100 mL) was heated at reflux for 3 hours, filtered hot over Celite, and concentrated to 30 mL in vacuo. The resulting crystals were collected, washed with additional 3N HCl, and dried to provide the title compound, mp 142.5–143.3° C. Additional crops were obtained from the filtrate to provide 1.03 g (70.4%). 1HNMR (400 MHz; CD3OD) δ=0.91(t, 3H, J=6.84 Hz), 0.92(d, 3H, J=6.35 Hz), 1.16–1.26(m, 1H), 1.27–1.35(m, 4H), 1.38–1.45(m, 1H), 1.61 (br s, 1H), 1.63–1.68(m, 1H), 2.58 (dd, 1H, J=7.32 and 17.34 Hz), 2.69(dd, 1H, J=5.13 and 17.59 Hz), and 3.59(m, 1H). Anal. Calc'd for C10H21NO2HCl: C, 53.68; H, 9.91; N, 6.26; Cl, 15.85. Found: C, 53.89; H, 10.11; N, 6.13. MS: M+1: 188.1.

reactant | (3S,5R)-3-amino-5-methyl-nonanoic acid, tert-butyl ester | 6.16 mmol, 1.50 g | N[C@H](CC(=O)OC(C)(C)C)C[C@@H](CCCC)C | C14H29NO2
reactant | HCl | 3N, 100 mL | Cl | ClH
product | (3S,5R)-3-Amino-5-methyl-nonanoic acid hydrochloride | Cl.N[C@H](CC(=O)O)C[C@@H](CCCC)C | InChI=1S/C10H21NO2.ClH/c1-3-4-5-8(2)6-9(11)7-10(12)13;/h8-9H,3-7,11H2,1-2H3,(H,12,13);1H/t8-,9+;/m1./s1
